* source EED3009
R_R6         N24456 N24370  3.3k TC=0,0 
C_C5         0 N24490  10n  TC=0,0 
X_U2         0 N24456 0 VDD N24490 N24456 N24370 VDD 555C
R_R5         N24370 VDD  3890 TC=0,0 
C_C4         0 N24456  1nF IC=1.65V TC=0,0 
V_V1         VDD 0 5V
V_V2         N28645 0  
+PULSE 5V 0V 0 1ns 1ns 3us 7.29us
X_U5         N28645 0 N28193 N28337 N28111 N28115 N28119 N28123 N28127 N28131
+  N28135 N28139 N28143 N32114 VDD 0 CD4040B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
