* source EED3009
V_Control         VCON 0  
+PULSE 0V 5V 1m 1n 1n 250u 6.67m
X_S2    VCON 0 VUS VSWT LPF_S2 
X_S1    VCON 0 VSWT 0 LPF_S1 
V_Ultrasonic         VUS 0  
+PULSE 0V 5V 0 1n 1n 12.5u 25u
D_D1         N17686 VOA MBR0520LT1 
C_C2         0 VOA  1n  TC=0,0 
R_R1         VSWT N17686  33k TC=0,0 
R_R2         0 VOA  330k TC=0,0 
X_U1A         VOA N18551 $G_DPWR $G_DGND 74HC14 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N18551 VOD $G_DPWR $G_DGND 74HC14 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0

.subckt LPF_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1.0 Voff=0V Von=5V
.ends LPF_S2

.subckt LPF_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1.0 Voff=5V Von=0V
.ends LPF_S1
