* source EED3009
R_R12         N80591 N80505  1k TC=0,0 
C_C1         VIN N80591  1uF IC=-2.50V TC=0,0 
R_R3         N80891 VDD  10k TC=0,0 
R_R4         0 N80891  10k TC=0,0 
R_R10         N80591 VDD  10k TC=0,0 
R_R13         0 N80591  10k TC=0,0 
R_R9         N80505 VPA  22k TC=0,0 
X_U5A         N80891 N80505 VPA VDD 0 awblm358 PARAMS: AVOL=1E+5 VOS=2E-3
+  GBW=1E+6 IBOS=5E-9 IB=45E-9 CMRR=3.16228E+3 PSRR=1E+5 SR=0.5E+6 ISOURCE=40E-3
+  VPDIF=1
V_V3         VDD 0 5V
X_U6A         N86495 N80891 VDD 0 VPC LM393
R_R19         VPC VDD  1k TC=0,0 
C_C2         0 N90235  1n IC=4V TC=0,0 
V_Ultrasonic         VUS 0  
+PULSE -100mV 100mV 0 0.5us 0.5us 12.5u 25u
X_S1    VCON 0 N88343 0 LPF2_S1 
X_S2    VCON 0 VUS N88343 LPF2_S2 
R_R16         VIN N88343  500 TC=0,0 
X_U6B         N90763 N89030 VDD 0 VOUT LM393
R_R25         0 N89030  33k TC=0,0 
R_R26         N89030 VDD  22k TC=0,0 
R_R29         VOUT VDD  1k TC=0,0 
R_R30         VLP N90763  10k TC=0,0 
X_U7A         N90235 VLP VLP VDD 0 awblm358 PARAMS: AVOL=1E+5 VOS=2E-3 GBW=1E+6
+  IBOS=5E-9 IB=45E-9 CMRR=3.16228E+3 PSRR=1E+5 SR=0.5E+6 ISOURCE=40E-3 VPDIF=1
R_R31         N90763 VOUT  40k TC=0,0 
R_R33         N86495 VPC  100k TC=0,0 
R_R34         VPA N86495  10k TC=0,0 
R_R22         VPC N90235  33k TC=0,0 
R_R32         N999801 VIN  100k TC=0,0 
X_V4         N999801 0 VRNDMN PARAMS: NVAL=5
V_Control         VCON 0  
+PULSE 0V 5V 2ms 1n 1n 250u 6.25ms

.subckt LPF2_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1.0 Voff=5V Von=0V
.ends LPF2_S1

.subckt LPF2_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1.0 Voff=0V Von=5V
.ends LPF2_S2
