* source EED3009
V_V1         N60452 0  
+SIN 0V 50mV 40kHz 0 0 0
V_V2         VDD 0 5V
R_R1         N63130 N60867  1k TC=0,0 
R_R2         N60867 N60760  22k TC=0,0 
R_R3         N62260 VDD  10k TC=0,0 
R_R4         0 N62260  10k TC=0,0 
R_R6         0 N63130  10k TC=0,0 
R_R5         N63130 VDD  10k TC=0,0 
C_C1         N60452 N63130  1uF  TC=0,0 
X_U1A         N62260 N60867 N60760 VDD 0 awblm358 PARAMS: AVOL=1E+5 VOS=2E-3
+  GBW=1E+6 IBOS=5E-9 IB=45E-9 CMRR=3.16228E+3 PSRR=1E+5 SR=0.5E+6 ISOURCE=40E-3
+  VPDIF=1
X_U1B         N65095 N60760 N65086 VDD 0 awblm358 PARAMS: AVOL=1E+5 VOS=2E-3
+  GBW=1E+6 IBOS=5E-9 IB=45E-9 CMRR=3.16228E+3 PSRR=1E+5 SR=0.5E+6 ISOURCE=40E-3
+  VPDIF=1
R_R7         N65095 N65086  20k TC=0,0 
R_R8         0 N65095  10k TC=0,0 
R_R9         VDD N65095  10k TC=0,0 
