* source EED3009
X_U1         0 N09857 VOUT1 VCC N08039 N07817 N07817 VCC 555C
C_C3         0 N07835  2.2n  TC=0,0 
V_V1         VCC 0 5V
C_C2         0 N08039  10n  TC=0,0 
R_R1         N07817 VCC  5.1k TC=0,0 
C_C1         0 N07817  2.2n  TC=0,0 
C_C4         0 N08065  10n  TC=0,0 
R_R2         N07835 VCC  5.1k TC=0,0 
X_U2         0 N11331 VOUT2 VCC N08065 N07835 N07835 VCC 555C
X_U3A         N10594 N10594 N10073 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         VOUT2 N10073 N09857 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3C         N10603 N10603 N10594 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3D         VOUT2 VOUT2 N10603 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4C         N11642 N11642 N11598 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5C         N11682 N11682 N11642 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         VOUT1 N11598 N11331 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5D         VOUT1 VOUT1 N11682 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
