* source EED3009
X_U1         0 N05667 VOUT1 VCC N02335 N02197 N02197 VCC 555B
C_C1         0 N02197  10u  TC=0,0 
C_C2         0 N02335  10n  TC=0,0 
R_R1         N02197 VCC  1k TC=0,0 
V_V1         VCC 0 12V
C_C3         0 N03246  10u  TC=0,0 
R_R2         N03246 VCC  1k TC=0,0 
C_C4         0 N03350  10n  TC=0,0 
X_U2         0 0 VOUT2 VCC N03350 N03246 N03246 VCC 555B
V_V2         N06135 0  
+PULSE 12V 0V 10us 1n 1n 100u 1s
R_R6         N05667 N06135  50k TC=0,0 
