* source EED3009
X_U6A         N38502 /Q5 N64498 DE Q1 /Q1 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6B         N38502 Q1 CLK DE Q2 /Q2 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         N38502 N38476 CLK DE Q3 /Q3 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7B         N38502 Q3 CLK DE Q4 /Q4 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         N38502 Q4 CLK DE Q5 /Q5 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9         /Q1 /Q3 N38352 $G_DPWR $G_DGND NAN2
X_U10         /Q2 N38352 N38476 $G_DPWR $G_DGND NOR2
X_U11A         /Q4 Q5 N41991 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         /Q2 /Q1 N42000 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11C         /Q1 /Q5 N43188 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11D         Q1 /Q2 N43526 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12A         /Q2 Q3 N43243 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12B         Q2 /Q3 N43259 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12C         Q1 Q5 N43307 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12D         /Q3 /Q4 N43554 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13A         /Q3 Q4 N44512 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14A         N428310 N428314 N428315 N45915 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14B         N428760 N428764 N428765 N45933 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U15A         N429340 N429341 N45951 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U16A         N429983 N429984 N429985 N429986 N45969 $G_DPWR $G_DGND 7420
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U16B         N430473 N430474 N430475 N430476 N430470 $G_DPWR $G_DGND 7420
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17A         N430963 N430964 N430965 N430966 N45254 $G_DPWR $G_DGND 7420
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17B         N431453 N431454 N431455 N431456 N46015 $G_DPWR $G_DGND 7420
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18A         N451210 N45290 N45999 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U19A         N56303 N45290 N45985 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U20B         N45915 SEG_A $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U20D         N45933 SEG_B $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U20F         N45951 SEG_C $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U21B         N45969 SEG_D $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U21C         N45985 N457341 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U21D         N457341 SEG_E $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U21E         N45999 SEG_F $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U22A         N46015 SEG_G $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U22F         DE N45290 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U23F         N45290 DE_OUT $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U24F         Q5 COUT $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U25A         0 N38502 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U25E         N43243 C_SEG $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V2         DE 0 5V
X_U27F         N41991 N428310 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U28F         N42000 N428314 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U29F         N45290 N428315 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U30F         N43188 N428760 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U31F         N43526 N428764 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U32F         N45290 N428765 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U33F         N43243 N429340 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U34F         N45290 N429341 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U35F         N43259 N429983 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U36F         N41991 N429984 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U37F         N42000 N429985 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U38F         N45290 N429986 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U39F         N43307 N430473 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U40F         N43526 N430474 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U41F         N43243 N430475 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U42F         N43554 N430476 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U43F         N43243 N430963 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U44F         N44512 N430964 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U45F         N42000 N430965 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U46F         N43259 N430966 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U47F         N43259 N431453 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U48F         N42000 N431454 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U49F         N43307 N431455 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U50F         N45290 N431456 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U51B         N430470 N56303 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U51E         N45254 N451210 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N64498 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
