* source EED3009
X_U1A         N00176 $D_LO $D_HI N00241 N00245 N00249 N00253 $G_CD4000_VDD
+  $G_CD4000_VSS CD4518B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00176 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
X_U2         N00241 N00253 N00525  $G_DPWR $G_DGND AND2
X_U3         N00525 N00176 COUT M_UN0001 $G_DPWR $G_DGND DFF
