* source EED3009
C_C8         0 N110061  1nF IC=1.65V TC=0,0 
X_CD4026_2_U1A         N84945 $D_LO $D_HI N84955 N84969 N84975 N84985
+  $G_CD4000_VDD $G_CD4000_VSS CD4518B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CD4026_2_U2         N84955 N84985 CD4026_2_N004852  $G_DPWR $G_DGND AND2
X_CD4026_2_U3         CD4026_2_N004852 N84945 N85019 M_UN0001 $G_DPWR $G_DGND
+  DFF
C_C9         0 N110087  10n  TC=0,0 
R_R17         N110061 N109977  3.3k TC=0,0 
X_U6         0 N110061 N84923 VDD N110087 N110061 N109977 VDD 555C
R_R16         VDD N109977  3890 TC=0,0 
X_CD4026_1_U1A         N84923 $D_LO $D_HI N84905 N84911 N84917 N84931
+  $G_CD4000_VDD $G_CD4000_VSS CD4518B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CD4026_1_U2         N84905 N84931 CD4026_1_N004852  $G_DPWR $G_DGND AND2
X_CD4026_1_U3         CD4026_1_N004852 N84923 N84945 M_UN0002 $G_DPWR $G_DGND
+  DFF
V_V1         VDD 0 5V
