* source EED3009
C_C_eq         N293890 VO-  1.82nF  TC=0,0 
M_M4         VO+ SOUND VDD VDD ppMOS           
M_M3         VO+ SOUND 0 0 nnMOS           
R_R21         N29217 VDD  1k TC=0,0 
R_R12         N29991 N29853  3.6k TC=0,0 
C_C21         0 N29421  330pF IC=-1.65V TC=0,0 
X_U1         0 N29991 N29999 VDD N30031 N29991 N29853 VDD 555C
M_M6         VO- /SOUND VDD VDD ppMOS           
X_U2A         N29999 TRANSMIT $G_DPWR $G_DGND 74HC14 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
M_M1         /SOUND SOUND 0 0 nnMOS           
X_U3         0 N29421 SOUND TRANSMIT N29551 N29421 N29217 VDD 555C
M_M2         /SOUND SOUND VDD VDD ppMOS           
C_C12         0 N30031  10n  TC=0,0 
C_C22         0 N29551  10n  TC=0,0 
M_M5         VO- /SOUND 0 0 nnMOS           
R_R_esr         VO+ N293890  10 TC=0,0 
C_C11         0 N29991  100nF IC=-1.65V TC=0,0 
X_CD4026_1_U3         CD4026_1_N004852 C_CLK N32613 M_UN0001 $G_DPWR $G_DGND
+  DFF
X_CD4026_1_U2         N32655 N32667 CD4026_1_N004852  $G_DPWR $G_DGND AND2
X_CD4026_1_U1A         C_CLK N32753 $D_HI N32655 N32659 N32663 N32667
+  $G_CD4000_VDD $G_CD4000_VSS CD4518B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CD4026_2_U3         CD4026_2_N004852 N32613 N84729 M_UN0002 $G_DPWR $G_DGND
+  DFF
X_CD4026_2_U2         N32671 N32683 CD4026_2_N004852  $G_DPWR $G_DGND AND2
X_CD4026_2_U1A         N32613 N32753 $D_HI N32671 N32675 N32679 N32683
+  $G_CD4000_VDD $G_CD4000_VSS CD4518B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C51         0 N74666  1nF IC=-1.65V TC=0,0 
C_C52         0 N74696  10n  TC=0,0 
X_U5         0 N74666 C_CLK VDD N74696 N74666 N74582 VDD 555C
C_C62         0 VDD  0.1uF  TC=0,0 
C_C61         0 N86762  0.33pF  TC=0,0 
X_U6         N86762 VDD 0 LM7805C
V_V1         N86762 0 9V
R_R73         N97606 N97476  1k TC=0,0 
X_U7B         N98046 VLP VLP VDD 0 awblm358 PARAMS: AVOL=1E+5 VOS=2E-3 GBW=1E+6
+  IBOS=5E-9 IB=45E-9 CMRR=3.16228E+3 PSRR=1E+5 SR=0.5E+6 ISOURCE=40E-3 VPDIF=1
R_R71         N97606 VDD  10k TC=0,0 
C_C71         ECHO_A N97606  1uF IC=-2.50V TC=0,0 
R_R83         VPC VDD  1k TC=0,0 
R_R105         0 N98078  30k TC=0,0 
X_U8A         N97556 REF_2V5 VDD 0 VPC LM393
R_R102         N97588 ECHO_D  40k TC=0,0 
R_R81         VPA N97556  10k TC=0,0 
R_R61         REF_2V5 VDD  10k TC=0,0 
R_R91         VPC N98046  33k TC=0,0 
R_R103         ECHO_D VDD  1k TC=0,0 
R_R104         N98078 VDD  20k TC=0,0 
C_C91         0 N98046  1n  TC=0,0 
R_R72         0 N97606  10k TC=0,0 
R_R101         VLP N97588  10k TC=0,0 
X_U8B         N97588 N98078 VDD 0 ECHO_D LM393
R_R82         N97556 VPC  100k TC=0,0 
R_R74         N97476 VPA  22k TC=0,0 
X_U7A         REF_2V5 N97476 VPA VDD 0 awblm358 PARAMS: AVOL=1E+5 VOS=2E-3
+  GBW=1E+6 IBOS=5E-9 IB=45E-9 CMRR=3.16228E+3 PSRR=1E+5 SR=0.5E+6 ISOURCE=40E-3
+  VPDIF=1
C_C64         0 REF_2V5  100uF  TC=0,0 
R_R62         0 REF_2V5  10k TC=0,0 
C_C63         REF_2V5 VDD  100uF  TC=0,0 
R_R11         N29853 VDD  91k TC=0,0 
R_R22         N29217 N29421  54.66k TC=0,0 
R_R3         N130528 N130552  100k TC=0,0 
C_C1         N1304641 N130528  300p  TC=0,0 
V_V3         N130552 0 2.5V
C_out_signal_C22         0 out_signal_N123881  10n  TC=0,0 
R_out_signal_R22         out_signal_N123613 out_signal_N123785  54.66k TC=0,0 
X_out_signal_U3         0 out_signal_N123785 N1304641 N130514
+  out_signal_N123881 out_signal_N123785 out_signal_N123613 VDD 555C
R_out_signal_R21         out_signal_N123613 VDD  1k TC=0,0 
C_out_signal_C21         0 out_signal_N123785  330pF IC=-1.65V TC=0,0 
R_R1         N130630 ECHO_A  100k TC=0,0 
E_E1         N130542 0 N130528 N130552 0.1
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N131716 IO_STM IO_LEVEL=0 
+ 0 0
+ +145us 1
+REPEAT FOREVER
+ +145us 0
+  +145us 1
+ ENDREPEAT
X_delaydd_U6         delaydd_N00908 N131716 delaydd_N00912 M_UN0003 VDD 0 DFF
X_delaydd_U5         delaydd_N00904 N131716 delaydd_N00908 M_UN0004 VDD 0 DFF
X_delaydd_U10         delaydd_N00924 N131716 N130514 0 VDD 0 DFF
X_delaydd_U9         delaydd_N00920 N131716 delaydd_N00924 M_UN0005 VDD 0 DFF
X_delaydd_U4         delaydd_N00900 N131716 delaydd_N00904 M_UN0006 VDD 0 DFF
X_delaydd_U3         delaydd_N00896 N131716 delaydd_N00900 M_UN0007 VDD 0 DFF
X_delaydd_U1         TRANSMIT N131716 delaydd_N00892 M_UN0008 VDD 0 DFF
X_delaydd_U8         delaydd_N00916 N131716 delaydd_N00920 M_UN0009 VDD 0 DFF
X_delaydd_U2         delaydd_N00892 N131716 delaydd_N00896 M_UN0010 VDD 0 DFF
X_delaydd_U7         delaydd_N00912 N131716 delaydd_N00916 M_UN0011 VDD 0 DFF
X_U9         N142057 TRANSMIT N142021 $G_DPWR $G_DGND OR2
X_U10         ECHO_D N142057  $G_DPWR $G_DGND INV
X_U11A         $D_HI N32753 N142021 $D_HI M_UN0012 N32753 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R52         N74582 N74666  18.57k TC=0,0 
R_R51         N74582 VDD  47k TC=0,0 
R_R106         ECHO_A N130542  1k TC=0,0 
X_V4         N130630 0 VRNDMN PARAMS: NVAL=5
