* source EED3009
.EXTERNAL INPUT INPUT
X_U1         INPUT N00936 N00892 M_UN0001 N84486 0 DFF
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00936 IO_STM IO_LEVEL=0 
+ 0 0
+ +6.25us 1
+REPEAT FOREVER
+ +6.25us 0
+  +6.25us 1
+ ENDREPEAT
X_U2         N00892 N00936 N00896 M_UN0002 N84486 0 DFF
X_U3         N00896 N00936 N00900 M_UN0003 N84486 0 DFF
X_U4         N00900 N00936 N00904 M_UN0004 N84486 0 DFF
X_U5         N00904 N00936 N00908 M_UN0005 N84486 0 DFF
X_U6         N00908 N00936 N00912 M_UN0006 N84486 0 DFF
X_U7         N00912 N00936 N00916 M_UN0007 N84486 0 DFF
X_U8         N00916 N00936 N00920 M_UN0008 N84486 0 DFF
X_U9         N00920 N00936 N00924 M_UN0009 N84486 0 DFF
X_U10         N00924 N00936 N83110 M_UN0010 N84486 0 DFF
X_S1    N83110 0 N116411 N116475 shifty_S1 
V_V4         0 N116561 100mV
C_C14         N116475 N116649  1n  TC=0,0 
X_S2    N83110 0 N116475 N116561 shifty_S2 
V_V3         N116411 0 100mV
V_V5         N84486 0 5V
R_R1         0 N116649  100k TC=0,0 

.subckt shifty_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1Meg Ron=1 Voff=0 Von=1
.ends shifty_S1

.subckt shifty_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1Meg Ron=1 Voff=1 Von=0
.ends shifty_S2
