* source EED3009
E_E1         N126954 0 N129108 N127449 0.1
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N126672 IO_STM IO_LEVEL=0 
+ 0 0
+ +25us 1
+REPEAT FOREVER
+ +25us 0
+  +25us 1
+ ENDREPEAT
C_out_signal_C22         0 out_signal_N123881  10n  TC=0,0 
X_out_signal_U3         0 out_signal_N123785 N126628 N126624 out_signal_N123881
+  out_signal_N123785 out_signal_N123613 VDD 555C
R_out_signal_R22         out_signal_N123613 out_signal_N123785  54.66k TC=0,0 
R_out_signal_R21         out_signal_N123613 VDD  1k TC=0,0 
C_out_signal_C21         0 out_signal_N123785  330pF IC=-1.65V TC=0,0 
V_V1         N126618 0  
+PULSE 0 5V 1ms 1ns 1ns 249us 1s
V_V2         VDD 0 5V
R_R1         0 N126954  100k TC=0,0 
X_delaydd_U6         delaydd_N00908 N126672 delaydd_N00912 M_UN0001 VDD 0 DFF
X_delaydd_U5         delaydd_N00904 N126672 delaydd_N00908 M_UN0002 VDD 0 DFF
X_delaydd_U10         delaydd_N00924 N126672 N126624 0 VDD 0 DFF
X_delaydd_U9         delaydd_N00920 N126672 delaydd_N00924 M_UN0003 VDD 0 DFF
X_delaydd_U4         delaydd_N00900 N126672 delaydd_N00904 M_UN0004 VDD 0 DFF
X_delaydd_U3         delaydd_N00896 N126672 delaydd_N00900 M_UN0005 VDD 0 DFF
X_delaydd_U1         N126618 N126672 delaydd_N00892 M_UN0006 VDD 0 DFF
X_delaydd_U8         delaydd_N00916 N126672 delaydd_N00920 M_UN0007 VDD 0 DFF
X_delaydd_U2         delaydd_N00892 N126672 delaydd_N00896 M_UN0008 VDD 0 DFF
X_delaydd_U7         delaydd_N00912 N126672 delaydd_N00916 M_UN0009 VDD 0 DFF
V_V3         N127449 0 2.5V
R_R3         N129108 N127449  100k TC=0,0 
C_C1         N126628 N129108  300p  TC=0,0 
