* source EED3009
X_U53A         0 N58791 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V4         CLK 0  
+PULSE 0V 5V 0 1ns 1ns 0.5ms 1ms
X_U52A         N58791 N58705 CLK VDD N58753 N58705 VDD 0 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V5         VDD 0 5V
